US06344449B1
a) Hexahydro-1-methyl-4-[1-(phenylmethyl)-4-piperidinyl]-1H-1,4-diazepine
Prepared analogously to Example A11a) from hexahydro-1-methyl-1H-1,4-diazepine and 1-(phenylmethyl)-4-piperidinone in a yield of 35% of theory. Colourless viscous oil.

reactant | hexahydro-1-methyl-1H-1,4-diazepine | CN1CCNCCC1 | C6H14N2
reactant | 1-(phenylmethyl)-4-piperidinone | C1(=CC=CC=C1)CN1CCC(CC1)=O | C12H15NO
product | Hexahydro-1-methyl-4-[1-(phenylmethyl)-4-piperidinyl]-1H-1,4-diazepine | yield of 35% | CN1CCN(CCC1)C1CCN(CC1)CC1=CC=CC=C1 | C18H29N3
